US04110536
1-(3-Chloropropyl)-4-hydroxy-4-phenylpiperidine
A solution of 4-hydroxy-4-phenylpiperidine (35.4 g, 0.2 mole) in 50 ml of 20% NaOH and 250 ml of acetone was cooled at <15° and 1-bromo-3-chloropropane (31.4 g, 0.2 mole) was added dropwise. The mixture was stirred at room temperature for 18 hours and concentrated in vacuo at <40°. The concentrate was converted to the HCl salt with HCL(g)/2-PrOH and concentrated in vacuo to an oil. The oil crystallized in hot acetone and the solid salt was collected and dried. The salt was warmed in 2-PrOH, cooled and filtered to remove 8 g of quaternary salt. mp >260°. The filtrate was warmed and diluted with ethyl acetate to obtain the desired salt. Yield 13 g (22.5%), m.p. 173°-6° (dec.).

reactant | 4-hydroxy-4-phenylpiperidine | 0.2 mole, 35.4 g | OC1(CCNCC1)C1=CC=CC=C1 | C11H15NO
reactant | 1-bromo-3-chloropropane | 0.2 mole, 31.4 g | BrCCCCl | C3H6BrCl
solvent | NaOH | 50 ml | [OH-].[Na+]
solvent | acetone | 250 ml | CC(=O)C | C3H6O
product | 1-(3-Chloropropyl)-4-hydroxy-4-phenylpiperidine | ClCCCN1CCC(CC1)(C1=CC=CC=C1)O | C14H20ClNO
